US08389524B2
(1R)-1-({4-[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (impure product) (575 mg, 1.540 mmol) in chloroform (20 ml) and methanol (1 ml) at rt under argon was treated with triethylamine (0.644 ml, 4.62 mmol) and stirred at rt for 0.25 h. The solution was then treated with [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144 Example 61) (258 mg, 1.540 mmol) and stirred for a further 0.5 h. The solution was then treated with NaBH(OAc)3 (979 mg, 4.62 mmol) and stirred at rt for 0.5 h. The reaction was then treated with saturated aqueous NaHCO3 (100 ml) and extracted with 20% methanol/DCM (3×200 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM) to give the free base of the title compound as a light brown solid (574 mg, 1.273 mmol, 83%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | 1.540 mmol, 575 mg | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 4.62 mmol, 0.644 ml | C(C)N(CC)CC | C6H15N
reactant | [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde | S1COC=2C=NC(=CC21)C=O | C7H5NO2S
reactant | NaBH(OAc)3 | 4.62 mmol, 979 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1 ml | CO | CH4O
product | (1R)-1-({4-[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 1.273 mmol, 574 mg, 83% | Cl.S1COC=2C=NC(=CC21)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C23H25N5O3S.ClH/c29-21-3-1-15-2-4-22(30)28-18(13-27(21)23(15)28)12-26-7-5-16(6-8-26)24-10-17-9-20-19(11-25-17)31-14-32-20;/h1-4,9,11,16,18,24H,5-8,10,12-14H2;1H/t18-;/m1./s1
